US04006242
Preparation of ethyl-6-n-propoxybenzothiazole-2-carbamate
To a chilled solution of 10.4 g. 2-amino-6-n-propoxybenzothiazole in 50 ml dry pyridine is dropwise added 6 g. ethyl chloroformate with stirring. The mixture is then allowed to stand at room temperature for 8 hrs. It is poured in 200 g. of ice water and stirred for 30 mins. The white solid product is separated by filtration and dried. Crystallization from ethanol gave 12 g. of the product. m.p. 175°-177° C.

reactant | 2-amino-6-n-propoxybenzothiazole | NC=1SC2=C(N1)C=CC(=C2)OCCC | C10H12N2OS
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl-6-n-propoxybenzothiazole-2-carbamate | C(C)OC(NC=1SC2=C(N1)C=CC(=C2)OCCC)=O | C13H16N2O3S
